US07119205B2
2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]acetic acid
To an ambient suspension of NaH (235 mg, 5.89 mmol, 60% dispersion in mineral oil, washed with dry hexane) in dry THF (6 mL) was added 2-amino-4-(4-ethoxycarbonylmethoxy-phenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester (1.06 g, 2.36 mmol) as a solution in THF (6 mL). The reaction was stirred overnight at room temperature and was then diluted with 1N NaOH (10 mL) and MeOH (10 mL). After stirring an additional 1.5 h at room temperature, the reaction was concentrated under reduced pressure to ˜20 mL. The solution was acidified to pH ˜1 with 1N HCl and extracted with EtOAc (3×30 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure to a beije solid that was used without further purification. MS (ESI) m/e 375 (M−H)−; 1H NMR (300 MHz, BENZENE-d6) δ ppm 4.72 (s, 2H), 6.94 (d, J=8.48 Hz, 2H), 7.26 (d, J=8.48 Hz, 2H).

reactant | NaH | 5.89 mmol, 235 mg | [H-].[Na+]
reactant | 2-amino-4-(4-ethoxycarbonylmethoxy-phenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester | 2.36 mmol, 1.06 g | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)OCC(=O)OCC)Cl)N | C17H18ClNO5S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 2-[4-(2-chloro-5-cyano-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridin-3-yl)phenoxy]acetic acid | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(OCC(=O)O)C=C1 | C16H9ClN2O5S
